US09193732B2
2.3 tert-Butyl 4-(6-Aminopyridin-3-yl)piperazine-1-carboxylate (A2)
A nitrogen-flushed, 2.5 L heavy-wall Parr bottle (pressure rated to 60 psi) is charged with 68 g (0.22 mol,) of tert-butyl 4-(6-nitropyridin-3-yl)piperazine-1-carboxylate, (A2a), 6.8 g of 10% palladium on carbon, 50% water wet catalyst and 807 g (1020 mL) of methanol. The reaction vessel is inerted three times with nitrogen (ca. 30 psi), evacuating the atmosphere above the reaction mixture each time. The vessel is pressurized twice with hydrogen (ca. 30 psi), evacuating the atmosphere above the reaction mixture each time. The reaction vessel is pressurized to 45 psi with hydrogen. The shaker motor is started. The reaction is exothermic. A temperature rise from 19 to 54° C. over 15 min is observed after which time the hydrogen uptake stops. The mixture is allowed to cool to 30° C. over 1 h at which point the shaker is stopped. The hydrogen atmosphere is replaced with nitrogen as described above (Inert the reaction vessel). The catalyst is removed by filtration through a 10 g pad of filter cel. This entire process is repeated once more, both filtrates are combined and charged to a clean 3 L 4-neck round bottom flask.

reactant | tert-butyl 4-(6-nitropyridin-3-yl)piperazine-1-carboxylate | 0.22 mol, 68 g | [N+](=O)([O-])C1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N4O4
reactant | water | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 1020 mL, 807 g | CO | CH4O
product | tert-Butyl 4-(6-Aminopyridin-3-yl)piperazine-1-carboxylate | NC1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
